US06239151B1
A solution of 2′-benzyl-2′-(4-benzyloxycarbonylaminobutyryl)-2(R)-[4-cyclohexyl-1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]butyl]-4-methylvalerohydrazide in methanol was shaken in an atmosphere of hydrogen in the presence of 10% palladium-on-charcoal catalyst for 3 hours. The catalyst was filtered off and the methanol evaporated to give 2′-(4-aminobutyryl)-2′-benzyl-2(R)-[4-cyclohexyl-1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]butyl]-4-methylvalerohydrazide in the form of a white solid.

reactant | 2′-benzyl-2′-(4-benzyloxycarbonylaminobutyryl)-2(R)-[4-cyclohexyl-1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]butyl]-4-methylvalerohydrazide | C(C1=CC=CC=C1)N(NC([C@H](CC(C)C)[C@H](CCCC1CCCCC1)C(NOC1OCCCC1)=O)=O)C(CCCNC(=O)OCC1=CC=CC=C1)=O | C41H60N4O7
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 2′-(4-aminobutyryl)-2′-benzyl-2(R)-[4-cyclohexyl-1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]butyl]-4-methylvalerohydrazide | NCCCC(=O)N(NC([C@H](CC(C)C)[C@H](CCCC1CCCCC1)C(NOC1OCCCC1)=O)=O)CC1=CC=CC=C1 | C33H54N4O5
